US06821980B1
(14g) Butane-2-sulphonic acid 3′-amino-4-(2,4-diamino-pvrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester (Method 2)
Starting from 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol (176 mg; 0.50 mmol) and sec-butyl-sulphonyl chloride (94 mg; 0.60 mmol), 159 mg of the title compound are isolated as a white solid.

reactant | 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol | 0.50 mmol, 176 mg | NC=1C=C(C=CC1)C=1C(=CC(=CC1OCC)CC=1C(=NC(=NC1)N)N)O | C19H21N5O2
reactant | sec-butyl-sulphonyl chloride | 0.60 mmol, 94 mg | C(C)(CC)S(=O)(=O)Cl | C4H9ClO2S
product | Butane-2-sulphonic acid 3′-amino-4-(2,4-diamino-pvrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester | 159 mg | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)C(C)CC | C23H29N5O4S
